US06696473B2
Preparation of Methyl 4-[2-(5-Acetyl-2-ethylamino-phenylimino)-5-(3-methyl-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-3-ylmethyl]benzoate
The title compound was prepared in a manner similar to Example 168 by condensing intermediate 3-methyl-2-methylthio-4,5,6,7-tetrahydrobenzothiazol-3-ium p-toluenesulfonate with 4-[2-(5-acetyl-2-ethylaminophenylimino)-4-oxothiazolidin-3-yl methyl]benzoic acid methyl ester.

reactant | 3-methyl-2-methylthio-4,5,6,7-tetrahydrobenzothiazol-3-ium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(SC2=C1CCCC2)SC
reactant | 4-[2-(5-acetyl-2-ethylaminophenylimino)-4-oxothiazolidin-3-yl methyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1C(SCC1=O)=NC1=C(C=CC(=C1)C(C)=O)NCC)=O | C22H23N3O4S
product | Methyl 4-[2-(5-Acetyl-2-ethylamino-phenylimino)-5-(3-methyl-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-3-ylmethyl]benzoate | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=C(C(=O)OC)C=C1)=O)=C1SC2=C(N1C)CCCC2)NCC | C30H32N4O4S2
